US04667007
A mixture of 300 grams of dibutyltin oxide, 193 grams of diethylmalonic acid, and 500 ml. of toluene was refluxed for 1 hour. There was collected 21 grams of water in a Dean Stock trap by azeotropic distillation. The reaction mixture was then filtered while hot and allowed to cool to ambient temperatures. Removal of the solvent in vacuo provided 460 grams (98% yield) of dibutyltin diethylmalonate as a white crystalline solid. The identity of the product was confirmed by NMR, IR and FD-MS analysis.

reactant | dibutyltin oxide | 300 grams | C(CCC)[Sn](CCCC)=O
reactant | diethylmalonic acid | 193 grams | C(C)C(C(=O)O)(C(=O)O)CC | C7H12O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | dibutyltin diethylmalonate | 460 grams, 98% yield | C(C)C(C(=O)[O-])(C(=O)[O-])CC.C(CCC)[Sn+2]CCCC | InChI=1S/C7H12O4.2C4H9.Sn/c1-3-7(4-2,5(8)9)6(10)11;2*1-3-4-2;/h3-4H2,1-2H3,(H,8,9)(H,10,11);2*1,3-4H2,2H3;/q;;;+2/p-2
